US06740777B2
To a solution of 2-carboxymethyl-6-hydroxy-benzoic acid (5.021 g, 25.6 mmol) in DMF (100 mL) at 0° C. were added K2CO3(3.567 g, 25.9 mmol) and CH3I (7.9 mL, 51.9 mmol). After stirring under nitrogen at 0° C. for 4 h, the reaction was partitioned between H2O (100 mL) and ether (150 mL). The aqueous layer was acidified with 1 N HCl and extracted with EtOAc (200 mL). The EtOAc layer was dried over MgSO4 and concentrated in vacuo to give the crude 2-hydroxy-6-methoxycarbonylmethyl-benzoic acid methyl ester as a colorless oil (3.2 g, 56%): 1H NMR (CDCl3) δ3.69 (s, 3H), 3.89 (s, 5H), 6.72 (d, J=6.7 Hz, 1H), 6.96 (d, J=8.0 Hz, 1H), 7.33-7.38 (m, 1H).

reactant | 2-carboxymethyl-6-hydroxy-benzoic acid | 25.6 mmol, 5.021 g | C(=O)(O)CC1=C(C(=O)O)C(=CC=C1)O | C9H8O5
reactant | K2CO3 | 25.9 mmol, 3.567 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 51.9 mmol, 7.9 mL | CI | CH3I
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-hydroxy-6-methoxycarbonylmethyl-benzoic acid methyl ester | 3.2 g, 56% | COC(C1=C(C=CC=C1CC(=O)OC)O)=O | C11H12O5
